US07348340B2
B3. 2-(3-Fluorophenyl)-6-nitro-quinolin-4-ol
In a 3 L three-neck flask, equipped with mechanical stirrer, Claisen adapter holding a thermocouple probe and reflux condenser with nitrogen inlet was added 0.75 L of Dowtherm A (a eutectic mixture of 26.5% diphenyl and 73.5% diphenyl oxide) The solvent is then preheated to 250° C. To this was cautiously added in small portions 77.0 grams (0.215 moles) of 3-(4-nitro-phenylamino)-3-(3-fluorophenyl)-acrylic acid butyl ester over the course of 0.25 hours. The mixture was maintained at 250° C. for 1.5 hours and then allowed to cool to 90° C. over the course of 2 hours. The mixture was treated with 1.0 L of hexanes, and allowed to cool to room temperature while stirring overnight. The tan solids were collected by suction filtration and washed with three 0.15 L portions of hexanes. The solids were dried under vacuum at 50° C. overnight to yield 58.63 grams (96.0%) of the title compound.

reactant | Dowtherm A | 0.75 L | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | diphenyl oxide | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 3-(4-nitro-phenylamino)-3-(3-fluorophenyl)-acrylic acid butyl ester | 0.215 moles, 77.0 grams | C(CCC)OC(C=C(C1=CC(=CC=C1)F)NC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H19FN2O4
product | 2-(3-Fluorophenyl)-6-nitro-quinolin-4-ol | 58.63 grams, 96.0% | FC=1C=C(C=CC1)C1=NC2=CC=C(C=C2C(=C1)O)[N+](=O)[O-] | C15H9FN2O3
